US06355642B1
4-(2-Methoxyphenyl)-1,2,3,6-tetrahydropyridine
1-t-Butoxycarbonyl-4-hydroxy-4-(2-methoxyphenyl)piperidine (240 mg, 0.78 mmol) was dissolved in methylene chloride (4 ml). Thereto was added trifluoroacetic acid (4 ml) and the resulting solution was stirred at room temperature for 1 hour. The solvent was evaporated under a reduced pressure, and ethyl acetate was added to the thus obtained residue. This was washed with 1 N sodium hydroxide aqueous solution and saturated brine in that order, and then the solvent was evaporated under a reduced pressure to obtain 150 mg of the aforementioned compound of interest (0.78 mmol, 100% in yield).

reactant | 1-t-Butoxycarbonyl-4-hydroxy-4-(2-methoxyphenyl)piperidine | 0.78 mmol, 240 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=CC=C1)OC)O | C17H25NO4
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-Methoxyphenyl)-1,2,3,6-tetrahydropyridine | 150 mg | COC1=C(C=CC=C1)C=1CCNCC1 | C12H15NO
